US08049015B2
Cyclopropanecarboxylic acid [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amide (0.215 g, 0.47 mmol), (trimethylsilyl)acetylene (0.07 mL, 0.47 mmol), and copper iodide (0.012 g, 0.05 mmol) were combined in triethylamine (2 mL), and the solution was purged with N2 for 25 minutes. Dichlorobis(triphenylphosphine)palladium(II) (0.039 g, 0.05 mmol) was added, and the reaction was stirred at room temperature overnight. The mixture was worked-up with CH2Cl2 and H2O, and the combined organic layers were dried, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give cyclopropanecarboxylic acid ethyl-[2-(2-methoxy-5-trimethylsilanylethynyl-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amide.

reactant | Cyclopropanecarboxylic acid [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amide | 0.47 mmol, 0.215 g | BrC=1C=C(C(=NC1)OC)C1=C(CN(C(=O)C2CC2)CC)C=C(C=C1)C(F)(F)F | C20H20BrF3N2O2
reactant | (trimethylsilyl)acetylene | 0.47 mmol, 0.07 mL | C[Si](C)(C)C#C | C5H10Si
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | H2O | O | H2O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 0.05 mmol, 0.012 g | [Cu](I)I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmol, 0.039 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | cyclopropanecarboxylic acid ethyl-[2-(2-methoxy-5-trimethylsilanylethynyl-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amide | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)C#C[Si](C)(C)C)OC | C25H29F3N2O2Si
